US07696240B2
1-(4-Chloro-benzo[b]thiophen-3-ylmethyl)-1H-indole-2-carboxylic acid
Using general procedure B, 1H-indole-2-carboxylic acid ethyl ester was coupled with 3-bromomethyl-4-chloro-benzo[b]thiophene (Li. 17) and the product obtained was hydrolyzed to give the title compound as a white solid. MS: 340.0 ([M−H]−).

reactant | 1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1 | C11H11NO2
reactant | 3-bromomethyl-4-chloro-benzo[b]thiophene | BrCC=1C2=C(SC1)C=CC=C2Cl | C9H6BrClS
product | 1-(4-Chloro-benzo[b]thiophen-3-ylmethyl)-1H-indole-2-carboxylic acid | ClC1=CC=CC=2SC=C(C21)CN2C(=CC1=CC=CC=C21)C(=O)O | C18H12ClNO2S
